US07345060B2
Step 1—N-(4-Hydroxymethylphenyl)acrylamide
p-Aminobenzyl alcohol (12.31 g, 100 mmol) was dissolved in a mixture of dichloromethane (200 mL) and tetrahydrofuran (20 mL) containing N,N-diisopropylethylamine (35 mL, 200 mmol). The resulting homogeneous solution was then cooled to 0° C. and acryloyl chloride (8.2 mL, 100 mmol) was added drop-wise over a 30-minute period while keeping the internal temperature of the reaction mixture below 20° C. The reaction mixture was stirred at 0° C. for about 60 minutes. The reaction mixture was poured into ice-cold 1M hydrochloric acid (0.6 L) and the organic layer was separated and evaporated to dryness to give a crude material (5 g) consisting primarily of the bis-acylated side product. The acidic aqueous layer was then extracted with ethyl acetate (2×200 mL) and the combined ethyl acetate layers were dried with sodium sulfate, filtered and concentrated under reduced pressure to provide a residue. Trituration of the residue with ethyl acetate yielded the title compound (10.5 g, 98.5% pure). An additional 2 g of the title compound were obtained by trituration of the crude material obtained from the dichloromethane layer.

reactant | p-Aminobenzyl alcohol | 100 mmol, 12.31 g | NC1=CC=C(CO)C=C1 | C7H9NO
reactant | N,N-diisopropylethylamine | 200 mmol, 35 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acryloyl chloride | 100 mmol, 8.2 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1—N-(4-Hydroxymethylphenyl)acrylamide | 10.5 g, 98.5% | OCC1=CC=C(C=C1)NC(C=C)=O | C10H11NO2
